US08865701B2
Step 6: Benzyl 2-cyclohexyl-4-phenylpiperidine-1-carboxylate
2-cyclohexyl-4-phenylpiperidine (2.85 g, 11.71 mmol) in CH2Cl2 (58.5 ml) was added benzyl chloroformate (2.507 ml, 17.56 mmol) and triethylamine (2.45 ml, 17.56 mmol). The reaction was stirred at room temperature for 2 hours. Added water and extracted 3 times with CH2Cl2. The combined organics were dried, concentrated, and purified on silica gel 20% EtOAc/Hexanes. Separated cis and trans on the AD column, 20% IPA/Hexanes w/DEA. Peak 1 corresponds to the cis racemic mixture with one trans diastereomer and peak2 is a single trans diastereomer. Obtained 2.5 g racemic cis/trans peak1. Resolved on the OJ column 20% EtOH/Hexanes w/DEA: Peak 1: 0.68 g pure cis undesired, peak 2 1.75 g cis/trans mixture.

reactant | 2-cyclohexyl-4-phenylpiperidine | 11.71 mmol, 2.85 g | C1(CCCCC1)C1NCCC(C1)C1=CC=CC=C1 | C17H25N
reactant | benzyl chloroformate | 17.56 mmol, 2.507 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | triethylamine | 17.56 mmol, 2.45 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 58.5 ml | C(Cl)Cl | CH2Cl2
product | Benzyl 2-cyclohexyl-4-phenylpiperidine-1-carboxylate | C1(CCCCC1)C1N(CCC(C1)C1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C25H31NO2
